US06274120B1
j) 3-Hexadecyloxycarbonyl-3-hydroxypentanedioic acid dihexadecyl ester
1,8-Diazabicyclo[5.4.0]undec-7-ene(1,5-5)(4.567 g, 30 mmol) was added at room temperature to a solution of citric acid (1.924 g, 10 mmol) in N,N-dimethylformamide (50 ml). 1-Iodohexadecane (10.570 g, 30 mmol) was added and the resulting mixture was stirred at 50° C. for 21 hours. The precipitated product was filtered off and washed with N,N-dimethylformamide and the crude product was purified by flash chromatography on silica gel using chlorform/hexane for elution. Yield: 83%. 1H-NMR (300 MHz, CDCl3): δ 088(t,9H), 1.26(m,78H), 1.60(m,6H), 2.84(q,4H), 4.07(t,4H), 4.13(s,1H), 4.20(t,2H). FAB-MS: 887.6(M+Na).

reactant | citric acid | 10 mmol, 1.924 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 1-Iodohexadecane | 30 mmol, 10.570 g | ICCCCCCCCCCCCCCCC | C16H33I
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Hexadecyloxycarbonyl-3-hydroxypentanedioic acid dihexadecyl ester | Yield: 83% | C(CCCCCCCCCCCCCCC)OC(CC(CC(=O)OCCCCCCCCCCCCCCCC)(O)C(=O)OCCCCCCCCCCCCCCCC)=O | C54H104O7
